US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid [1,1-dimethyl-2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl]-amide
The title compound was synthesized in analogy to Example 69, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 50 mg, 0.21 mmol) and 1,1-dimethyl-2-(5-methyl-2-phenyl-oxazol-4-yl)-ethylamine (57.2 mg, 0.32 mmol) as starting materials and isolated (75 mg, 73.6%) as white solid; LC-MS (UV peak area, ESI) 92.82%, 446.8 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.21 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | 1,1-dimethyl-2-(5-methyl-2-phenyl-oxazol-4-yl)-ethylamine | 0.32 mmol, 57.2 mg | CC(CC=1N=C(OC1C)C1=CC=CC=C1)(C)N | C14H18N2O
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid [1,1-dimethyl-2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl]-amide | CC(CC=1N=C(OC1C)C1=CC=CC=C1)(C)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C26H30N4O3
